US06531502B1
A mixture of 4-(3-dimethylaminopropyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) and sodium hydroxide in MeOH (4 mL)/water (2 mL) was stirred at 80° C. for 19 hr. The reaction was then diluted with EtOAc. The aqueous layer was separated, neutralized and concentrated. The residue was dissolved in MeOH, filtered and the filtrate was concentrated to give 251 mg (94%) of 4-(3-dimethylaminopropyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid.

reactant | 4-(3-dimethylaminopropyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C1=C(NC(=C1CCCN(C)C)C=O)C | C14H22N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-dimethylaminopropyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid | 251 mg, 94% | CN(CCCC=1C(=C(NC1C=O)C)C(=O)O)C | C12H18N2O3
